US09108977B2
To 400 mg of t-butyl 5-cyclopropyl-4-[(2R)-2-methoxy-3-{[(4-methylphenyl)sulfonyl]oxy}propyl]-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate was added 7 ml of a 1 M solution of tetrabutylammonium fluoride in THF, followed by heating and stirring at 60° C. for 13 hours under an argon atmosphere. The reaction mixture was cooled to room temperature and a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with ethyl acetate twice. The combined organic layer was dried over anhydrous sodium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 257 mg of t-butyl 5-cyclopropyl-4-[(2R)-3-fluoro-2-methoxypropyl]-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate as a white foamed solid.

reactant | t-butyl 5-cyclopropyl-4-[(2R)-2-methoxy-3-{[(4-methylphenyl)sulfonyl]oxy}propyl]-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 400 mg | C1(CC1)C1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)OCCN2C[C@H](COS(=O)(=O)C2=CC=C(C=C2)C)OC | C31H42N2O7S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | t-butyl 5-cyclopropyl-4-[(2R)-3-fluoro-2-methoxypropyl]-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 257 mg | C1(CC1)C1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)OCCN2C[C@H](CF)OC | C24H35FN2O4
